US04307094
3.24 g (0.0125 mol) of methyl 2-chloromethyl-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate and 2.29 g (0.02 mol) of potassium thioacetate were refluxed together in 400 ml of acetone with a catalytic amount of sodium iodide for 19 hours. The acetone was removed by evaporation and the residue was partitioned between 250 ml of ethyl acetate and 200 ml of saturated sodium chloride solution. The organic layer was separated, dried over magnesium sulphate and evaporated to give a yellow oil. This oil was chromatographed on silica gel using chloroform/ethyl acetate (1:1) for the elution to give 2.19 g (59%) of methyl 2-acetylthiomethyl-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate in the form of a colourless solid of melting point 110°-111° C. (from chloroform/hexane).

reactant | methyl 2-chloromethyl-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | 0.0125 mol, 3.24 g | ClCN1C(N2N(CC=CC2C(=O)OC)C1=O)=O | C9H10ClN3O4
reactant | potassium thioacetate | 0.02 mol, 2.29 g | C(C)(=S)[O-].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | methyl 2-acetylthiomethyl-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | 2.19 g, 59% | C(C)(=O)SCN1C(N2N(CC=CC2C(=O)OC)C1=O)=O | C11H13N3O5S
